US04751295
B. 2-(5-t-Butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2-cyclopentyloxyiminoacetic acid
A solution of 500 mg (1.34 mmoles) of methyl 2-(5-t-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2-cyclopentyloxyiminoacetate and 2N NaOH solution (2 ml, 4 mmoles) in 15 ml of CH3OH was refluxed for 30 minutes. The reaction mixture was evaporated and 10 ml of ethyl acetate-H2O (1:1) was added to the solution. The water layer was separated, acidified to pH 2 with 6N HCl and extracted with ethyl acetate (10 ml×2). The organic layer was washed with brine, dried over MgSO4 and concentrated under reduced pressure to give 377 mg (78%) of the title compound. Mp. 185° C. (dec.).

reactant | methyl 2-(5-t-butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2-cyclopentyloxyiminoacetate | 1.34 mmoles, 500 mg | C(C)(C)(C)OC(=O)NC1=NC(=NS1)C(C(=O)OC)=NOC1CCCC1 | C15H22N4O5S
reactant | NaOH | 4 mmoles, 2N, 2 ml | [OH-].[Na+]
solvent | CH3OH | 15 ml | CO | CH4O
product | 2-(5-t-Butoxycarbonylamino-1,2,4-thiadiazol-3-yl)-2-cyclopentyloxyiminoacetic acid | 377 mg, 78% | C(C)(C)(C)OC(=O)NC1=NC(=NS1)C(C(=O)O)=NOC1CCCC1 | C14H20N4O5S
